US04596805
Methyl 5,8-Dihydro-1,3,7-trimethyl-5-(3-nitrophenyl)-2,4-dioxopyrido[2,3-d]pyrimidine-6-carboxylate
A mixture of 6-amino-N,N'-dimethyluracil (3.1 g,20 mM),3-nitrobenzaldehyde (3 g,20 mM), and methyl acetoacetate (2.3 g, 1.4 ml, 20 mM) in glacial acetic acid (10 ml) was stirred under N2 at reflux for 3 hours, cooled to ambient, light yellow solid which was filtered and rinsed with acetone to give the title compound (1.04 g,13.5%),mp >230° C.

reactant | 6-amino-N,N'-dimethyluracil | 20 mM, 3.1 g | NC1=CC(N(C(N1C)=O)C)=O | C6H9N3O2
reactant | 3-nitrobenzaldehyde | 20 mM, 3 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | methyl acetoacetate | 20 mM, 1.4 ml, 2.3 g | C(CC(=O)C)(=O)OC | C5H8O3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | Methyl 5,8-Dihydro-1,3,7-trimethyl-5-(3-nitrophenyl)-2,4-dioxopyrido[2,3-d]pyrimidine-6-carboxylate | 1.04 g, 13.5% | CN1C(N(C(C2=C1NC(=C(C2C2=CC(=CC=C2)[N+](=O)[O-])C(=O)OC)C)=O)C)=O | C18H18N4O6
